US06153608
To 30 ml of a suspension prepared by suspending 2.25 g of hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine in pyridine was added 2.0 g of acetic anhydride, and the mixture was stirred at 60° C. for 30 minutes. This reaction mixture was concentrated, made basic with sodium hydrogencarbonate/H2O, and extracted with chloroform. The extract was dried and concentrated to provide 1.91 g of 1-acetyl-hexahydro-4-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine as oil.

reactant | hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine | 2.25 g | CC1=CN=CC2=CC=CC(=C12)S(=O)(=O)N1CCNCCC1 | C15H19N3O2S
reactant | acetic anhydride | 2.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-acetyl-hexahydro-4-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine | 1.91 g | C(C)(=O)N1CCN(CCC1)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C17H21N3O3S
